US07354917B2
(i) 1-[3-(4-Cyanophenyl)propyl]-1-(2-hydroxyethyl)urea
4-[3-(2-Hydroxyethylamino)propyl]benzonitrile (6.7 g, 0.0328 mol; see Preparation A(v) above) and urea (2 g, 0.0328 mol) were mixed and heated at 130° C. for 2 h. The reaction mixture was cooled to room temperature and water was added. The resulting solid was filtered and dried to give 5.9 g (72%) of the sub-title compound as a white solid.

reactant | 4-[3-(2-Hydroxyethylamino)propyl]benzonitrile | 0.0328 mol, 6.7 g | OCCNCCCC1=CC=C(C#N)C=C1 | C12H16N2O
reactant | urea | 0.0328 mol, 2 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 1-[3-(4-Cyanophenyl)propyl]-1-(2-hydroxyethyl)urea | 5.9 g, 72% | C(#N)C1=CC=C(C=C1)CCCN(C(=O)N)CCO | C13H17N3O2
